US09034900B2
4-(2-ethoxy-5-ethylsulfonylthiophen-3-yl)-2-methylisoquinolin-1-one
A mixture of 3-bromo-2-ethoxy-5-ethylsulfonylthiophene (18.0 mg, 0.06 mmol), 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-1-one (24 mg, 0.08 mmol), K3PO4 (42 mg, 0.20 mmol) and Pd(dppf)Cl2 (6 mg, 0.008 mmol) in dioxane (0.5 mL) and H2O (0.05 mL) was stirred at 60° C. for 1.5 h. The reaction mixture was then poured over water (6 mL) and extracted with EtOAc (2×5 mL). The combined organic layers were dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by normal phase silica gel column chromatography to give the title compound (10.5 mg, 46%). 1H NMR (DMSO-d6, 400 MHz) δ 8.29 (d, J=7.9 Hz, 1H), 7.71 (dd, J=7.6, 7.6 Hz, 1H), 7.57 (m, 3H), 7.35 (d, J=7.9 Hz, 1H), 4.25 (m, 2H), 3.54 (s, 3H), 3.38 (m, 2H), 1.24 (m, 6H). LCMS: 378.05 (M+1)+

reactant | 3-bromo-2-ethoxy-5-ethylsulfonylthiophene | 0.06 mmol, 18.0 mg | BrC1=C(SC(=C1)S(=O)(=O)CC)OCC | C8H11BrO3S2
reactant | 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-1-one | 0.08 mmol, 24 mg | CN1C(C2=CC=CC=C2C(=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H20BNO3
reactant | K3PO4 | 0.20 mmol, 42 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 0.05 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.008 mmol, 6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 6 mL | O | H2O
product | 4-(2-ethoxy-5-ethylsulfonylthiophen-3-yl)-2-methylisoquinolin-1-one | 10.5 mg, 46% | C(C)OC=1SC(=CC1C1=CN(C(C2=CC=CC=C12)=O)C)S(=O)(=O)CC | C18H19NO4S2
